US05747499
(8) Pentafluorophenyl o-fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzoate
A mixture of o-fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]-benzoic acid (0.75 g), pentafluorophenol (1.77 g), N,N-dicyclohexylcarbodiimide (0.66 g), N-hydroxybenzotriazole (0.01 g) and methylene chloride (100 ml) was stirred at ambient temperature for 18 hours. The mixture was filtered and the filtrate was evaporated. The residue was purified by column chromatography using increasingly polar mixtures of hexane and ethyl acetate as eluant. There was thus obtained pentafluorophenyl o-fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzoate as a gum (0.72 g);

reactant | o-fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]-benzoic acid | 0.75 g | FC1=C(C(=O)O)C=CC(=C1)NC1CCC2=C1C=C1C(N(C(=NC1=C2)C)COC(C(C)(C)C)=O)=O | C25H26FN3O5
reactant | pentafluorophenol | 1.77 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | N-hydroxybenzotriazole | 0.01 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Pentafluorophenyl o-fluoro-p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzoate | FC1=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC(=C1)NC1CCC2=C1C=C1C(N(C(=NC1=C2)C)COC(C(C)(C)C)=O)=O | C31H25F6N3O5
